US04861780
(c) 2-(2-Benzimidazolylmethylthio)-3-phenyl-4(3H)-quinazolinone
The title compound was prepared in a yield of 39.3%, using 2-mercapto-3-phenyl-4(3H)-quinazolinone in place of 3-isobutyl-2-mercapto-4(3H)-quinazolinone and 2chloromethylbenzimidazole in place of 2-chloromethylpyridine hydrochloride.

reactant | 2-mercapto-3-phenyl-4(3H)-quinazolinone | SC1=NC2=CC=CC=C2C(N1C1=CC=CC=C1)=O | C14H10N2OS
reactant | 2chloromethylbenzimidazole | ClCC=1NC2=C(N1)C=CC=C2 | C8H7ClN2
product | 2-(2-Benzimidazolylmethylthio)-3-phenyl-4(3H)-quinazolinone | yield of 39.3% | N1=C(NC2=C1C=CC=C2)CSC2=NC1=CC=CC=C1C(N2C2=CC=CC=C2)=O | C22H16N4OS
